US08044068B2
A mixture of methyl 3-amino-5-methylthiophene-2-carboxylic acid (1.2 g) and urea (2.2 g) was stirred at 180° C. for 2.5 h. The mixture was left stand for cooling to room temperature, followed by 1 M aqueous sodium hydroxide (20 mL), the solids were dissolved, and the mixture was neutralized with acetic acid. The precipitated crystals were collected by filtration to obtain 6-methylthieno[3,2-d]pyrimidine-2,4-diol (0.77 g). (2) To a mixture of 6-methylthieno[3,2-d]pyrimidine-2,4-diol (0.77 g) and phosphorus oxychloride (8 mL) was added N,N-dimethylaniline (1.6 mL) at room temperature, and the mixture was stirred at 100° C. for 2 h. The reaction solution was added dropwise to water with ice cooling, and the aqueous layer was extracted with chloroform. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (silica gel, chloroform) to obtain 2,4-dichloro-6-methylthieno[3,2-d]pyrimidine (0.50 g).

reactant | methyl 3-amino-5-methylthiophene-2-carboxylic acid | 1.2 g | CC=1C(=C(SC1C)C(=O)O)N | C7H9NO2S
reactant | urea | 2.2 g | NC(=O)N | CH4N2O
reactant | sodium hydroxide | 1 M, 20 mL | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-methylthieno[3,2-d]pyrimidine-2,4-diol | 0.77 g | CC1=CC=2N=C(N=C(C2S1)O)O | C7H6N2O2S
